US08664220B2
Step 2: [1-(4′-{4-[(5-Benzyl-[1,3,4]oxadiazol-2-yl)-(tert-butyl-dimethyl-silanyloxy)-methyl]-3-methyl-isoxazol-5-yl}-biphenyl-4-yl)-cyclopropyl]-acetic acid ethyl ester
Prepared according to the procedure described in Example 1, Step 10, using 2-benzyl-5-[[5-(4-bromo-phenyl)-3-methyl-isoxazol-4-yl]-(tert-butyl-dimethyl-silanyloxy)-methyl]-[1,3,4]oxadiazole and {1-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-cyclopropyl}-acetic acid ethyl ester.

reactant | 2-benzyl-5-[[5-(4-bromo-phenyl)-3-methyl-isoxazol-4-yl]-(tert-butyl-dimethyl-silanyloxy)-methyl]-[1,3,4]oxadiazole | C(C1=CC=CC=C1)C=1OC(=NN1)C(O[Si](C)(C)C(C)(C)C)C=1C(=NOC1C1=CC=C(C=C1)Br)C | C26H30BrN3O3Si
reactant | {1-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-cyclopropyl}-acetic acid ethyl ester | C(C)OC(CC1(CC1)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)=O | C19H27BO4
product | [1-(4′-{4-[(5-Benzyl-[1,3,4]oxadiazol-2-yl)-(tert-butyl-dimethyl-silanyloxy)-methyl]-3-methyl-isoxazol-5-yl}-biphenyl-4-yl)-cyclopropyl]-acetic acid ethyl ester | C(C)OC(CC1(CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)C)C(O[Si](C)(C)C(C)(C)C)C=1OC(=NN1)CC1=CC=CC=C1)=O | C39H45N3O5Si
